US08242111B2
A mixture of (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one (100 mg, 0.30 mmol), 2-bromo-5-(trifluoromethyl)pyridine (67 mg, 0.36 mmol), and triethylamine (91 mg, 0.90 mmol) in acetonitrile was heated to reflux for 3 h. The reaction mixture was concentrated. The residue was purified by preparative TLC and preparative HPLC to afford (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(5-(trifluoromethyl)pyridin-2-yl) piperidin-3-yl)-1,3-oxazinan-2-one (10.09 mg, 7%). LC-MS Method 2 tR=1.34 min, m/z=482. 1H NMR (400MHz, CDCl3): 1.28 (m, 1H), 1.64 (m, 2H), 1.76 (m, 3H), 1.92 (m, 2H), 2.18 (m, 1H), 2.27 (m, 1H), 2.77 (m, 3H), 3.21 (m, 1H), 3.52 (t, 2H), 3.83 (broad, 1H), 4.11 (d, 1H), 4.25 (d, 1H), 6.57 (d, 1H), 7.03 (t, 2H), 7.23 (m, 2H), 7.54 (d, 1H), 8.29 (s, 1H).

reactant | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one | 0.30 mmol, 100 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H]1CNCCC1)CCCO | C18H25FN2O3
reactant | 2-bromo-5-(trifluoromethyl)pyridine | 0.36 mmol, 67 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | triethylamine | 0.90 mmol, 91 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(5-(trifluoromethyl)pyridin-2-yl) piperidin-3-yl)-1,3-oxazinan-2-one | 10.09 mg, 7% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H]1CN(CCC1)C1=NC=C(C=C1)C(F)(F)F)CCCO | C24H27F4N3O3
